US07960419B2
A mixture of 2-methylcyclopropanecarboxylic acid (commercial product which is a cis-trans mixture, 75.0 g, 0.75 mol) and 1 N NaOH (900 mL, 0.90 mol) is warmed and stirred at 45° C. To the stirring solution is added benzyl bromide (131.0 mL, 1.10 mol) and methyltrialkyl(C8-C10)ammonium chloride (Adogen™ 464, 37.5 g). The mixture is stirred at 40-45° C. for 4 h, cooled to room temperature, and extracted with ethyl ether (800 mL). The organic layer is dried (MgSO4) and evaporated to a liquid. Chromatography over silica gel, eluting with hexanes gradually increasing to 5% ethyl acetate in hexanes, provides the racemic benzyl trans-2-methylcyclopropanecarboxylate as a liquid (132.2 g, 93%); 1H NMR (DMSO-d6) δ 7.40 (m, 5H), 5.05 (s, 2H), 1.43 (m, 1H), 1.30 (m, 1H), 1.06 (d, J=6.0 Hz, 3H), 1.02 (m, 2H), 0.74 (m, 1H). [Note: If NMR reveals the presence of a minor amount of cis isomer, it is removable by the chiral HPLC separation which may be carried out as described above.]

reactant | 2-methylcyclopropanecarboxylic acid | CC1C(C1)C(=O)O | C5H8O2
reactant | NaOH | 0.90 mol, 1 N, 900 mL | [OH-].[Na+]
reactant | benzyl bromide | 1.10 mol, 131.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | methyltrialkyl(C8-C10)ammonium chloride | 37.5 g | CCCCCCCCCC[N+](C)(CCCCCCCCCC)CCCCCCCCCC.CCCCCCCCC[N+](C)(CCCCCCCCC)CCCCCCCCC.CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-].[Cl-].[Cl-]
product | racemic benzyl trans-2-methylcyclopropanecarboxylate | 132.2 g, 93% | C[C@H]1[C@@H](C1)C(=O)OCC1=CC=CC=C1 | C12H14O2
